US08981085B2
(R)-tert-Butyl 1-(5-bromo-3-(6-methylnicotinamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (12 mg, 0.023 mmol) in DCM (3 mL) at room temperature was treated with TFA (1 mL). The reaction was stirred for 1 hour and then concentrated to dryness. The resulting residue was dissolved in a minimal amount of DCM and then added to a stirring solution of 1M HCl in ether. The resulting solid was filtered, washed with ether and dried to give (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-6-methylnicotinamide hydrochloride (0.004 g, 33% yield) as a solid. 1H NMR (400 MHz, D2O) δ 9.02-8.99 (m, 1H), 8.65-8.61 (m, 1H), 8.23 (d, 1H), 7.80 (d, 1H), 7.40 (d, 1H), 3.52-3.46 (m, 1H), 3.36-3.26 (m, 1H), 3.25-3.17 (m 1H), 3.15-3.06 (m 2H), 2.67 (s, 3H), 1.84-1.76 (m, 1H), 1.71-1.61 (m, 1H), 1.46-1.31 (m, 2H); LCMS (APCI+) m/z 429, 431 (M+H)+, Retention time=2.25 minutes (Method 2).

reactant | (R)-tert-Butyl 1-(5-bromo-3-(6-methylnicotinamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 0.023 mmol, 12 mg | BrC=1C(=C2C(=NC1)NC=C2NC(C2=CN=C(C=C2)C)=O)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C24H29BrN6O3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-6-methylnicotinamide hydrochloride | 0.004 g, 33% yield | Cl.N[C@H]1CN(CCC1)C1=C2C(=NC=C1Br)NC=C2NC(C2=CN=C(C=C2)C)=O | InChI=1S/C19H21BrN6O.ClH/c1-11-4-5-12(7-22-11)19(27)25-15-9-24-18-16(15)17(14(20)8-23-18)26-6-2-3-13(21)10-26;/h4-5,7-9,13H,2-3,6,10,21H2,1H3,(H,23,24)(H,25,27);1H/t13-;/m1./s1
